US05538969
To a solution of 0.35 g (0.82 mmol) of methyl (E)-6-[1,3-dihydro-6-methoxy-7-methyl-4-(trifluoroacetylamino)-3-oxoisobenzofuran-5-yl]-4-methyl-4-hexenoate in 4 ml of dimethylformamide was added 0.47 g (3.40 mmol) of potassium carbonate and 0.23 ml (3.69 mmol) of iodomethane. The mixture was stirred for 24 hours and then partitioned between ethyl acetate and water. The organic layer was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure to give methyl (E)-6-[1,3-dihydro-6-methoxy-7-methyl-4-(N-trifluoroacetyl-N-methylamino)-3-oxoisobenzofuran-5-yl]-4-methyl-4-hexenoate, an oil. NMR: δ 5.22-5.17 (multiplet ("m"), 2H); 5.10-5.04 (broad triplet, 1H); 3.81 (singlet ("s"), 3H); 3.62 (s, 3H); 3.42-3.27 (m, 5H); 2.45-2.25 (m, 5H); 1.75 (s, 3H).

reactant | methyl (E)-6-[1,3-dihydro-6-methoxy-7-methyl-4-(trifluoroacetylamino)-3-oxoisobenzofuran-5-yl]-4-methyl-4-hexenoate | 0.82 mmol, 0.35 g | COC1=C(C(=C2C(OCC2=C1C)=O)NC(C(F)(F)F)=O)C/C=C(/CCC(=O)OC)\C | C20H22F3NO6
reactant | potassium carbonate | 3.40 mmol, 0.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 3.69 mmol, 0.23 ml | IC | CH3I
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | methyl (E)-6-[1,3-dihydro-6-methoxy-7-methyl-4-(N-trifluoroacetyl-N-methylamino)-3-oxoisobenzofuran-5-yl]-4-methyl-4-hexenoate | COC1=C(C(=C2C(OCC2=C1C)=O)N(C)C(C(F)(F)F)=O)C/C=C(/CCC(=O)OC)\C | C21H24F3NO6
